US06812227B2
To a solution of 7.06 g (0.014 mmol) of [4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-(4-but-2-ynyloxy-benzenesulfonylamino)-acetic acid methyl ester dissolved in 50 mL of DMF was added 0.618 g (0.015 mmol) of a 60% oil dispersion of sodium hydride. The reaction was stirred for 30 min at room temperature and then 2.62 mL of iodomethane was added. After 5 h the reaction was diluted with water and extracted with ether. The combined organics were washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexanes (1:3) to provide [4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-[(4-but-2-ynyloxy-benzenesulfonyl)-methyl-amino]-acetic acid methyl ester as a white waxy solid. Electrospray Mass Spec 518.4 (M+H)+

reactant | [4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-(4-but-2-ynyloxy-benzenesulfonylamino)-acetic acid methyl ester | 0.014 mmol, 7.06 g | COC(C(NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C25H33NO6SSi
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 2.62 mL | IC | CH3I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-[(4-but-2-ynyloxy-benzenesulfonyl)-methyl-amino]-acetic acid methyl ester | COC(C(N(C)S(=O)(=O)C1=CC=C(C=C1)OCC#CC)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C26H35NO6SSi
